US07981874B2
[4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-phosphonic acid monomethyl ester.
[4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-phosphonic acid dimethyl ester (35 mg, 0.066 mmol) was made 0.25 M in dioxane and to this stirring solution was added 5N aqueous sodium hydroxide (26 μL, 0.132 mmol). The resulting solution was stirred at 80° C. overnight then diluted with DMF, acidified with TFA, and purified by HPLC (0-60% MeCN in water w/0.025% TFA) to afford the title compound: 1H NMR (DMSO-d6, 600 MHz) δ9.80 (s, 1H), 7.91 (d, J=8.4 Hz, 2H), 7.48-7.50 (m, 1H), 7.31-7.42 (m, 4H), 7.26-7.28 (m, 1H), 7.04-7.06 (m, 1H), 6.88 (d, J=8.4 Hz, 1H), 3.52 (d, J=11.4 Hz, 3H), 3.18 (d, J=21.6 Hz, 2H). MS: cal'd 403 (MH+), exp 403 (MH+)

reactant | [4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-phosphonic acid dimethyl ester | 0.066 mmol, 35 mg | COP(OC)(=O)CC1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)N)=O | C20H21N2O4PS
reactant | sodium hydroxide | 0.132 mmol, 5N, 26 μL | [OH-].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | [4-(2-Amino-5-thiophen-2-yl-phenylcarbamoyl)-benzyl]-phosphonic acid monomethyl ester | COP(O)(=O)CC1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)N)=O | C19H19N2O4PS
